US08377968B2
B. Synthesis of N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide
Hydrogenation flask charged with a solution of N-((1-(cyanomethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (2.80 g, 7.13 mmol) in methanol (20 mL) and Raney nickel (˜1 g, rinsed with methanol). The flask was shaken at room temperature under hydrogen (40 psi) overnight. The reaction mixture was then filtered through a celite cake, and the filtrate was concentrated to give sticky foam which was used in the next step without further purification.

reactant | N-((1-(cyanomethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | 7.13 mmol, 2.80 g | C(#N)CN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H17F6N3O
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney nickel | ˜1 g | [Ni] | Ni
product | N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H21F6N3O
